US07713982B2
8-chloro-3-(2-cyclohexylethyl)-3,7-dihydro-1H-purine-2,6-dione
8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.442 mmol) was stirred with sodium carbonate (52 mg, 0.486 mmol) in dry DMF (3 ml) for 30 min. Cyclohexylethyl bromide (93 mg, 0.486 mmol) was added, and the mixture was stirred at 37-40° C. under nitrogen for 65 h, followed by heating at 90° C. for 18 h. After cooling, the solution was degassed by evacuating and introducing nitrogen several times, and tetrakis(triphenylphosphine)palladium(0) (76 mg, 0.066 mmol) and morpholine (0.385 ml, 4.42 mmol) were added and the mixture stirred for 18 h. A further quantity of tetrakis(triphenylphosphine)palladium(0) (50 mg, 0.043 mmol) and morpholine (0.2 ml) were added and stirring continued for a further 1 h. Ethyl acetate and 2M aqueous HCl were added (ca. 10 ml each) and the organic layer separated, washed with brine and evaporated. The residue was dissolved in THF and loaded onto a 5 g aminopropyl SPE cartridge. The cartridge was washed with THF followed by MeOH, and the acidic product eluted with AcOH in MeOH (5% rising to 10%). The product thus obtained was further purified by autoprep HPLC to provide the title compound, 5.5 mg, 3%

reactant | 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.442 mmol, 100 mg | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
reactant | sodium carbonate | 0.486 mmol, 52 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Cyclohexylethyl bromide | 0.486 mmol, 93 mg | C1(CCCCC1)CCBr | C8H15Br
reactant | morpholine | 4.42 mmol, 0.385 ml | N1CCOCC1 | C4H9NO
reactant | morpholine | 0.2 ml | N1CCOCC1 | C4H9NO
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.066 mmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.043 mmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-chloro-3-(2-cyclohexylethyl)-3,7-dihydro-1H-purine-2,6-dione | ClC1=NC=2N(C(NC(C2N1)=O)=O)CCC1CCCCC1 | C13H17ClN4O2
